US06180622B2
d) (3S,5R)-1-Allyloxycarbonyl-3-benzoylthio-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidine
Diethyl azodicarboxylate (0.105 ml) is added to a solution of 102 mg of (3R,5R)-1-allyloxycarbonyl-3-hydroxy-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidine and 174 mg of triphenylphosphine in 1.7 ml of anhydrous THF at −11 to −10° C., the mixture is stirred in this state for 15 min, 0.130 ml of thiobenzoic acid (90%) is added thereto, and the mixture is stirred for 14 hr while raising the temperature this state to room temperature. The solvent and the excess reagent are removed by evaporation under reduced pressure to give a yellow oil which is then successively purified by column chromatography on Sephadex LH-20 (chloroform:methanol=1:1) and on silica gel (first, n-hexane:ethyl acetate=1:1) to give 87 mg of the title compound as a yellow oil.

reactant | Diethyl azodicarboxylate | 0.105 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (3R,5R)-1-allyloxycarbonyl-3-hydroxy-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidine | 102 mg | C(C=C)OC(=O)N1C[C@@H](C[C@H]1CC1=NC=C2SC=CN21)O | C14H17N3O3S
reactant | triphenylphosphine | 174 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | thiobenzoic acid | 0.130 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | THF | 1.7 ml | C1CCOC1 | C4H8O
product | (3S,5R)-1-Allyloxycarbonyl-3-benzoylthio-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidine | 87 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=NC=C2SC=CN21)SC(C2=CC=CC=C2)=O | C21H21N3O3S2
